US08791102B2
Step (b) A flask was charged with (S)-4-benzyl 1-tert-butyl 2-(4-(4-fluorophenoxy)phenylcarbamoyl)piperazine-1,4-dicarboxylate (1.46 g, 2.75 mmol) and hydrogen chloride (4N in dioxane, 10 mL). The mixture was stirred at ambient temperature for 1 hour and then quenched with saturated sodium bicarbonate (aq., 40 mL). The mixture was extracted with ethyl acetate (30 mL) and the extract was washed with deionized water (10 mL) and then brine (10 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give crude (S)-benzyl 3-(4-(4-fluorophenoxy)phenylcarbamoyl)piperazine-1-carboxylate (1.08 g, 2.41 mmol), which was carried forward without further purification.

reactant | (S)-4-benzyl 1-tert-butyl 2-(4-(4-fluorophenoxy)phenylcarbamoyl)piperazine-1,4-dicarboxylate | 2.75 mmol, 1.46 g | FC1=CC=C(OC2=CC=C(C=C2)NC(=O)[C@H]2N(CCN(C2)C(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)C=C1 | C30H32FN3O6
solvent | hydrogen chloride | 4N, 10 mL | Cl | ClH
product | (S)-benzyl 3-(4-(4-fluorophenoxy)phenylcarbamoyl)piperazine-1-carboxylate | 2.41 mmol, 1.08 g | FC1=CC=C(OC2=CC=C(C=C2)NC(=O)[C@@H]2CN(CCN2)C(=O)OCC2=CC=CC=C2)C=C1 | C25H24FN3O4
